US04775692
A solution of n-butyl lithium in hexane (1.58N, 55.6 ml, 88 mmol) was added dropwise to a solution of dimethyl methylphosphonate (10.9 g, 88 mmol) in 100 ml of anhydrous THF with stirring at -78° C. under argon atmosphere. After 30 minutes, a solution of methyl o-chlorobenzoate (6.0 g, 35.2 mmol) in 10 ml of anhydrous THF was added dropwise and the mixture was stirred for 30 minutes. The reaction mixture was allowed to warm to 0° C., diluted with 5.3 ml of acetic acid and 10 ml of water, and concentrated. 30 ml of water was added to the residue and the mixture was extracted with ethyl acetate (50 ml×2). The combined ethyl acetate layers were washed with water (20 ml×1) and brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled under reduced pressure to give a colorless transparent oil of dimethyl 2-o-chlorophenyl-2-oxoethylphosphonate (8.2 g, 31.2 mmol, yield 88.7%, b.p. 142°-145° C./0.09 mmHg), which was assigned the structure by the following data:

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 88 mmol, 1.58N, 55.6 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 88 mmol, 10.9 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl o-chlorobenzoate | 35.2 mmol, 6.0 g | ClC1=C(C(=O)OC)C=CC=C1 | C8H7ClO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5.3 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | dimethyl 2-o-chlorophenyl-2-oxoethylphosphonate | 31.2 mmol, 8.2 g, yield 88.7% | ClC1=C(C=CC=C1)C(CP(OC)(OC)=O)=O | C10H12ClO4P
